# Qucs 0.0.19  C:/Users/Simon Gurfunkel/Documents/FreeCAD/QucsRFLayout_Filter_Tutorial_2/LowPassFilter_Tutorial_2.sch

MLIN:MS1 _net0 _net1 Subst="Subst1" W="500um" L="4.5 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MSTEP:MS8 _net1 _net2 Subst="Subst1" W1="500um" W2="20.5mm" MSModel="Hammerstad" MSDispModel="Kirschning"
MLIN:MS2 _net2 _net3 Subst="Subst1" W="20.5mm" L="1.5 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MSTEP:MS9 _net3 _net4 Subst="Subst1" W1="20.5mm" W2="500um" MSModel="Hammerstad" MSDispModel="Kirschning"
MLIN:MS3 _net4 _net5 Subst="Subst1" W="500um" L="18 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MSTEP:MS10 _net5 _net6 Subst="Subst1" W1="500um" W2="20.5mm" MSModel="Hammerstad" MSDispModel="Kirschning"
MLIN:MS4 _net6 _net7 Subst="Subst1" W="20.5mm" L="2.5 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MSTEP:MS11 _net7 _net8 Subst="Subst1" W1="20.5mm" W2="500um" MSModel="Hammerstad" MSDispModel="Kirschning"
MLIN:MS5 _net8 _net9 Subst="Subst1" W="500um" L="18 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MSTEP:MS12 _net9 _net10 Subst="Subst1" W1="500um" W2="20.5mm" MSModel="Hammerstad" MSDispModel="Kirschning"
MLIN:MS6 _net10 _net11 Subst="Subst1" W="20.5mm" L="1.5 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MSTEP:MS13 _net11 _net12 Subst="Subst1" W1="20.5mm" W2="500um" MSModel="Hammerstad" MSDispModel="Kirschning"
MLIN:MS7 _net12 _net13 Subst="Subst1" W="500um" L="4.50 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
Pac:P3 _net13 gnd Num="2" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
Pac:P2 _net0 gnd Num="1" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
Eqn:Eqn1 Qucs_S11="dB(S[1,1])" Qucs_S21="dB(S[2,1])" Export="yes"
SUBST:Subst1 er="4.2" h="800um" t="35 um" tand="0.035" rho="1e-10" D="0"
.SP:SP1 Type="lin" Start="20MHz" Stop="5 GHz" Points="499" Noise="no" NoiseIP="1" NoiseOP="2" saveCVs="no" saveAll="no"
